US06794403B2
Step a) 4-[5-(Acetyloxy)-7-bromo-1,3-benzoxazol-2-yl]-2-fluorophenyl acetate
Acetic anhydride (1.0 mL, 9.95 mmol) was added into a cold (0° C.) solution of 7-bromo-2-(3-fluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol (1.24 g, 3.8 mmol), N,N-dimethylpyridin-4-amine (1.1 g, 9.18 mmol) and 1,4-dioxane (13 mL). The reaction mixture was allowed to warm up to room temperature and stirred for 20 h. Water (50 mL) was added to the reaction mixture extracted with EtOAc and dried over MgSO4. Evaporation and crystallization from EtOAc/hexane gave an off-white solid (0.87 g, 56% yield); MS m/e 408 (M+H)+.

reactant | Acetic anhydride | 9.95 mmol, 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-bromo-2-(3-fluoro-4-hydroxyphenyl)-1,3-benzoxazol-5-ol | 3.8 mmol, 1.24 g | BrC1=CC(=CC=2N=C(OC21)C2=CC(=C(C=C2)O)F)O | C13H7BrFNO3
reactant | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
catalyst | N,N-dimethylpyridin-4-amine | 9.18 mmol, 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | 50 mL | O | H2O
product | 4-[5-(Acetyloxy)-7-bromo-1,3-benzoxazol-2-yl]-2-fluorophenyl acetate | 0.87 g, 56% yield | C(C)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2Br)OC(C)=O)F | C17H11BrFNO5
